2132-01-30 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - START [**2132-1-29**] 02:00 PM
 PA CATHETER - START [**2132-1-29**] 02:00 PM
 IABP LINE - START [**2132-1-29**] 02:00 PM
 INVASIVE VENTILATION - START [**2132-1-29**] 02:00 PM
 SHEATH - STOP [**2132-1-29**] 02:45 PM
 EKG - At [**2132-1-29**] 04:49 PM
 ARTERIAL LINE - START [**2132-1-29**] 05:00 PM
   Weaned off dopamine then MAPs 50s so put back on
   D/C'd amio [**12-31**] bradycardia
   On heparin gtt with therapeutic PTT
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-1-29**] 02:45 PM
   Fentanyl - [**2132-1-29**] 02:50 PM
   Pantoprazole (Protonix) - [**2132-1-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-30**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 56 (49 - 81) bpm
   BP: 121/28(69) {70/14(41) - 171/45(114)} mmHg
   RR: 18 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
    CVP: 9 (7 - 16)mmHg
   PAP: (38 mmHg) / (18 mmHg)
   PCWP: 22 (22 - 22) mmHg
   CO/CI (Fick): (4.4 L/min) / (2.2 L/min/m2)
   SvO2: 70%
   Mixed Venous O2% Sat: 56 - 70
   Total In:
                                                                    802 mL
                                                                    296 mL
   PO:
   TF:
   IVF:
                                                                    802 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                    627 mL
                                                                    160 mL
   Urine:
                                                                    625 mL
                                                                    140 mL
   NG:
                                                                      2 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    175 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 267 (267 - 267) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/38/74/27/4
   Ve: 8.4 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Gen: Intubated, sedated, responds to voice, following commands
   HEENT: nc/at PERRL EOMI
   CV: [**2-1**] harsh systolic murmur
   Resp: CTA ant
   Abd:Soft NTND. +BS
   Ext: R groin IABP without hemaotma. Letf groin dsg c/d/i. Warm
   DP/PT trace, dopplerable BL. Popliteal 1+ BL
   Labs / Radiology
   243 K/uL
   11.3 g/dL
   303 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.8 mEq/L
   21 mg/dL
   102 mEq/L
   137 mEq/L
   30.9 %
   18.2 K/uL
        [image002.jpg]
                             [**2132-1-29**]  03:45 PM
                             [**2132-1-29**]  04:02 PM
                             [**2132-1-29**]  06:01 PM
                             [**2132-1-29**]  08:31 PM
                             [**2132-1-29**]  11:48 PM
                             [**2132-1-30**]  05:47 AM
                             [**2132-1-30**]  06:02 AM
   WBC
   17.4
   17.1
   18.2
   Hct
   33.5
   36
   31.8
   30.9
   Plt
   286
   254
   243
   Cr
   1.6
   1.6
   TropT
   0.46
   2.23
   TCO2
   26
   29
   29
   Glucose
   363
   303
   Other labs: PT / PTT / INR:22.4/79.1/2.1, CK / CKMB /
   Troponin-T:545/82/2.23, Differential-Neuts:91.3 %, Lymph:5.2 %,
   Mono:2.9 %, Eos:0.5 %, Lactic Acid:1.6 mmol/L, Ca++:8.9 mg/dL, Mg++:2.5
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Patient is an 88 year old male with history of CAD s/p stent to LCx
   (06), moderate to severe AS and diastolic dysfunction who was
   transferred from [**Hospital3 519**] for cath.  Catheterization was
   complicated by acute LAD occlusion during attempt to pass pressure wire
   and resultant VF arrest.  Spontaneous circulation returned after
   multiple shocks, epinephrine, lidocaine and amiodarone.
   .
   #. CAD: Known history of CAD s/p stent to LCx.  Cath today notable for
   stenosis distal to LCx stent.  During evaluation of anatomy patient
   developed TO of LAD which is known to supply collaterals to occluded
   RCA as well.  This resulted in VF arrest requiring multiple shocks,
   amiodarone, lidocaine.  A BMS was able to be placed to the LAD with
   resultant good flow.  Arrest is due to ischemia as clearly evidenced on
   catheterization TO of LAD so patient should improve now that coronary
   is reopened.
   - Continue IABP and follow MAPs on pump.  Continue dopamine as needed
   to maintain MAPs.  .
   - Continue to cycle enzymes.
   - Heparin gtt once arterial sheath is pulled.
   - Continue ASA, Plavix
   - High dose statin
   - Consider repeat catheterization once acute issues resolved to
   intervene on LCx.
   - Check echocardiogram in the AM.
   .
   # s/p intubation: In setting of VF arrest no acute hypoxic or
   hypercarbic event.
   - Confirm tube placement with CXR.
   - Continue on mechanical ventilation overnight
   - Place Aline to follow ABGs.
   .
   #. Pump: Diastolic heart failure, aortic stenosis.  Initially with PCWP
   of 15, however after arrest PCWP elevated to 35.
   - Follow volume status with swan.  Diurese as able.
   - Once patient is no longer hypotensive consider restarting beta
   blocker and ACE inhibitor.
   - Check echocardiogram in the AM.
   .
   #. Rhythm: Currently in sinus rhythm s/p VF arrest.
   - Monitor on telemetry
   - Given arrhythmia was most likely due to acute ischemia will hold on
   continuing Amiodarone gtt for now
   - Holding beta blocker [**12-31**] bradycardia and hypotension
   .
   # Renal insufficiency: Creatinine 1.6 post arrest.
   - Trend creatinine.
   - Renally dose all meds.
   .
   # Hypertension: On pressors.
   - Hold imdur, beta blocker.
   # Hyperlipidemia
   - Continue statin
   .
   #. Diabetes mellitus:
   - Continue insulin as per home regimen
   - FS QID
   - Check A1c
   .
   #. FEN:
   - OG tube in place
   - Follow lytes and replete PRN
   .
   #. Access:
   - Right groin swan ganz
   - Left groin with arterial sheath
   - Will attempt Aline
   .
   #. PPx: Heparin gtt, PPI, bowel regimen
   .
   #. Code: Full
   .
   #. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2132-1-29**] 02:00 PM
   IABP line - [**2132-1-29**] 02:00 PM
   20 Gauge - [**2132-1-29**] 02:00 PM
   Arterial Line - [**2132-1-29**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-01-31 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Off dopamine.
   IABP removed at 1715, PA cath still in place.
   Cr rise 1.6 -> 2.0 -> 2.5 with poor UOP. Attg elected to observe and
   not give fluid.
   Ulytes sent: FeNa 0.1.
   Extubated this am.
   .
   S: Comfortable, denies pain.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-30**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2132-1-31**] 12:45 AM
   Midazolam (Versed) - [**2132-1-31**] 04:45 AM
   Fentanyl - [**2132-1-31**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-31**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.9
   HR: 76 (57 - 81) bpm
   BP: 101/42(63) {85/19(54) - 141/69(85)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 9 (7 - 11)mmHg
   PAP: (48 mmHg) / (21 mmHg)
   CO/CI (Fick): (5.6 L/min) / (2.9 L/min/m2)
   Mixed Venous O2% Sat: 57 - 65
   Total In:
                                                                  1,671 mL
                                                                     37 mL
   PO:
   TF:
   IVF:
                                                                  1,491 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                    377 mL
                                                                    110 mL
   Urine:
                                                                    357 mL
                                                                    110 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  1,294 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 13 cmH2O
   SpO2: 99%
   ABG: 7.47/35/135/23/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Gen: Intubated, responds to voice, following commands
   Neck: No JVD
   CV: RRR. [**1-4**] HSM at apex, 2/6 SEM at RUSB
   Resp: CTA ant
   Abd: Soft NTND. +BS
   Ext: R groin with PA cath in place, site clean without hematoma or
   ecchymoses. 1+ DP pulses, 2+ radial pulses.
   Labs / Radiology
   171 K/uL
   9.9 g/dL
   185 mg/dL
   2.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   49 mg/dL
   106 mEq/L
   139 mEq/L
   28.4 %
   23.9 K/uL
        [image002.jpg]
                             [**2132-1-29**]  04:02 PM
                             [**2132-1-29**]  06:01 PM
                             [**2132-1-29**]  08:31 PM
                             [**2132-1-29**]  11:48 PM
                             [**2132-1-30**]  05:47 AM
                             [**2132-1-30**]  06:02 AM
                             [**2132-1-30**]  04:36 PM
                             [**2132-1-30**]  04:49 PM
                             [**2132-1-31**]  04:00 AM
                             [**2132-1-31**]  04:24 AM
   WBC
   17.1
   18.2
   23.9
   Hct
   36
   31.8
   30.9
   28.4
   Plt
   [**Telephone/Fax (3) 5030**]
   Cr
   1.6
   2.0
   2.5
   2.8
   TropT
   2.23
   3.68
   3.46
   TCO2
   26
   29
   29
   27
   26
   Glucose
   [**Telephone/Fax (3) 5031**]
   Other labs: PT / PTT / INR:15.4/74.4/1.4, CK / CKMB /
   Troponin-T:999/30/3.46, ALT / AST:178/286, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:91.3 %, Lymph:5.2 %, Mono:2.9 %, Eos:0.5 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.7 g/dL, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   Patient is an 88 year old male with history of CAD s/p stent to LCx
   (06), moderate to severe AS and diastolic dysfunction who was
   transferred from [**Hospital3 519**] for cath.  Catheterization was
   complicated by acute LAD occlusion during attempt to pass pressure wire
   and resultant VF arrest.  Spontaneous circulation returned after
   multiple shocks, epinephrine, lidocaine and amiodarone.
   .
   # CARDIAC ARREST/SHOCK: Pt with VF secondary to acute LAD occlussion
   s/p PCI. Cardiogenic shock resolved. IABP weaned off and removed last
   pm.  Off pressors. MS improved and now extubated.
   #. CAD: Known history of CAD s/p stent to LCx.  [**Month (only) 8**] need to
   revascularize LCx / repeat cath
   - Continue ASA and Plavix
   - Continue Statin
   - Will start metoprolol 2.5 mg IV Q 6, transition to po if able to
   tolerate po
   .  .
   #. AORTIC STENOSIS AND CHRONIC DIASTOLIC CHF.
   - Follow volume status with swan.
   - Start metoprolol as above
   .
   #. Rhythm: Currently in sinus rhythm s/p VF arrest.
   - Monitor on telemetry
   - No further amio for now.
   .
   # Renal insufficiency: Creatinine rising post-arrest likely related to
   poor forward flow. FeNA 0.1%
   - Trend creatinine.
   - Renally dose all meds.
   - Will trial lasix given elevated PA pressures
   .
   # Hypertension: inactive issue
   # Hyperlipidemia
 inactive issue. Continue statin
   .
   #. Diabetes mellitus: - FS QID and sliding scale
   .
   #. FEN:  - OG tube in place - Follow lytes and replete PRN
   .
   #. Access:
   - Right groin swan ganz
   - Left groin with arterial sheath
   - Will attempt Aline
   .
   #. PPx: Heparin gtt, PPI, bowel regimen
   .
   #. Code: Full
   .
   #. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2132-1-29**] 02:00 PM
   20 Gauge - [**2132-1-29**] 02:00 PM
   Arterial Line - [**2132-1-29**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically illd due to cardiac arrest, acute systolic and diastolic
   CHF, STEMI
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/5/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2132-2-2**] 09:11 ------

2132-02-01 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2132-1-31**] 10:15 AM
 PA CATHETER - STOP [**2132-1-31**] 04:47 PM
 EKG - At [**2132-1-31**] 08:40 PM
   c/o [**7-7**] sharp L arm pain after repositioning in bed. Discomfort down
   to [**4-6**] "tender" ache during time of EKG. Then [**4-6**] "dull ache" at end
   of EKG--> with no intervention
 EKG - At [**2132-1-31**] 08:45 PM
   pain resolved with no intervention
 EKG - At [**2132-2-1**] 03:10 AM
   .
 CHEST PAIN - At [**2132-2-1**] 03:10 AM
   [**6-6**] chest pressure
 EKG - At [**2132-2-1**] 03:15 AM
   -I/O even at night, given 80mg IV lasix once
   -c/o of left arm/shoulder pain, EKG showed deepered ST depression in
   inf leads, resolved on own 1st time but second time responded to 1 of
   SL nitro, cycled enzymes
   -sent urine elytes
   -swan d/ced
   -changed from IV to PO lopressor
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-31**] 07:26 PM
   Heparin Sodium (Prophylaxis) - [**2132-2-1**] 12:45 AM
   Furosemide (Lasix) - [**2132-2-1**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-1**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.5
   HR: 76 (74 - 84) bpm
   BP: 120/51(76) {95/42(63) - 134/81(98)} mmHg
   RR: 25 (12 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 8 (6 - 10)mmHg
   PAP: (55 mmHg) / (20 mmHg)
   Total In:
                                                                  1,406 mL
                                                                    120 mL
   PO:
                                                                  1,200 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    116 mL
   Blood products:
   Total out:
                                                                  1,357 mL
                                                                    505 mL
   Urine:
                                                                  1,357 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     49 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 477 (477 - 477) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 23
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.42/36/90.[**Numeric Identifier 299**]/24/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Gen: A&O, NAD
   Neck: flat JVD
   CV: RRR. [**1-4**] HSM at apex, 2/6 SEM at RUSB
   Resp: CTA ant
   Abd: Soft NTND. +BS
   Ext: R groin without hematoma or ecchymoses. 1+ DP pulses, 2+ radial
   pulses.
   Labs / Radiology
   174 K/uL
   9.7 g/dL
   173 mg/dL
   3.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   60 mg/dL
   105 mEq/L
   140 mEq/L
   26.4 %
   21.6 K/uL
        [image002.jpg]
                             [**2132-1-30**]  06:02 AM
                             [**2132-1-30**]  04:36 PM
                             [**2132-1-30**]  04:49 PM
                             [**2132-1-31**]  04:00 AM
                             [**2132-1-31**]  04:24 AM
                             [**2132-1-31**]  06:28 AM
                             [**2132-1-31**]  11:14 AM
                             [**2132-1-31**]  05:06 PM
                             [**2132-1-31**]  08:33 PM
                             [**2132-2-1**]  04:48 AM
   WBC
   23.9
   23.2
   21.6
   Hct
   28.4
   28.5
   26.4
   Plt
   171
   176
   174
   Cr
   2.5
   2.8
   2.9
   3.0
   TropT
   3.46
   3.39
   TCO2
   29
   27
   26
   25
   24
   Glucose
   185
   204
   173
   Other labs: PT / PTT / INR:13.8/24.5/1.2, CK / CKMB /
   Troponin-T:745/35/3.39, ALT / AST:178/286, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:92.6 %, Lymph:4.5 %, Mono:2.8 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.7 g/dL, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan:
   Patient is an 88 year old male with history of CAD s/p [**Year (4 digits) **] to LCx
   (06), moderate to severe AS and diastolic dysfunction who presented
   with NSTEMI, catheterization was complicated by acute LAD occlusion
   during attempt to pass pressure wire and resultant VF arrest now s/p
   mid-LAD BMS and IABP removal
   .
   #. CAD: Known history of CAD s/p [**Year (4 digits) **] to LCx ([**2128**]). Catheterization
   [**2132-1-29**] demonstrated LAD with 50-70% lesion but became acutely occluded
   during procedure now s/p PCI. LCx had 30% ostial and proximal lesions,
   previous [**Month/Day/Year **] patent with 80% stenosis distally. RCA known occluded
   and filled via LAD collaterals. Pt now with chest pain overnight with
   worsening of ST depression infero-laterally
   - Continue ASA and Plavix
   - Will start heparin gtt and intergrillin given pain with dynamic ECG
   changes
   - Pt with known tight lesion of LCx and recent LAD [**Last Name (LF) **], [**First Name3 (LF) 124**] plan for
   repeat catheterization today
   - Continue metoprolol
   - Continue Statin
   - Not on ACE-I secondary to renal failure
   .
   # CARDIAC ARREST/SHOCK: Pt with VF secondary to acute LAD occlusion s/p
   mid-LAD BMS and IABP removal. MS improved and now extubated.
   #. AORTIC STENOSIS AND CHRONIC DIASTOLIC CHF.
   - I/O Goal hold on further diuresis pending repeat catheterization
   - Continue metoprolol
   .
   #. Rhythm: Currently in sinus rhythm s/p VF arrest and emergent
   revascularization.
   - Monitor on telemetry
   .
   # Renal insufficiency: Creatinine rising post-arrest likely related to
   poor forward flow. FeNA 0.1%
   - Trend creatinine.
   - Renally dose all meds.
   - Mucomyst pre-cath
   .
   # Hypertension: inactive issue
   # Hyperlipidemia
 Continue statin
   .
   #. Diabetes mellitus: - FS QID and sliding scale
   .
   #. FEN:  - cardiac diet
   .
   #. Access:
   - PIV
   - L radial A line
   .
   #. PPx: Heparin gtt, PPI, bowel regimen
   .
   #. Code: Full
   .
   #. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2132-1-29**] 02:00 PM
   20 Gauge - [**2132-1-29**] 02:00 PM
   Arterial Line - [**2132-1-29**] 05:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to cardiac arrest, STEMI, CAD with on-going chest
   pain,
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/6/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2132-2-2**] 09:13 ------

2132-02-02 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Complained of left shoulder pain x 2 days. Later resolved with
   dilaudid. No new ECG changes.
   Integrilin d/cd. Cath deferred per following discussion with patient.
   S: Slept well. Denies shoulder pain. Ribs feel sore, worse with occ
   cough. No SOB or palp.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-2-1**] 08:25 AM
   Hydromorphone (Dilaudid) - [**2132-2-2**] 12:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-2**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 80 (74 - 84) bpm
   BP: 130/50(76) {110/48(70) - 143/61(87)} mmHg
   RR: 19 (12 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,102 mL
                                                                    301 mL
   PO:
                                                                  1,920 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    182 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    140 mL
   Urine:
                                                                  2,090 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     12 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Gen: A&O, NAD
   Neck: JVP 10 cm
   CV: RRR. 2/6 SEM loudest at RUSB
   Resp: CTAB
   Abd: Soft NTND. +BS
   Ext: 1+ DP pulses, 2+ radial pulses. WWP. 1+ ankle edema.
   Labs / Radiology
   196 K/uL
   9.4 g/dL
   122 mg/dL
   2.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   60 mg/dL
   101 mEq/L
   135 mEq/L
   25.7 %
   17.5 K/uL
        [image002.jpg]
                             [**2132-1-30**]  04:49 PM
                             [**2132-1-31**]  04:00 AM
                             [**2132-1-31**]  04:24 AM
                             [**2132-1-31**]  06:28 AM
                             [**2132-1-31**]  11:14 AM
                             [**2132-1-31**]  05:06 PM
                             [**2132-1-31**]  08:33 PM
                             [**2132-2-1**]  04:48 AM
                             [**2132-2-1**]  04:46 PM
                             [**2132-2-2**]  03:18 AM
   WBC
   23.9
   23.2
   21.6
   21.1
   17.5
   Hct
   28.4
   28.5
   26.4
   27.2
   25.7
   Plt
   171
   176
   174
   186
   196
   Cr
   2.8
   2.9
   3.0
   2.8
   2.4
   TropT
   3.46
   3.39
   TCO2
   27
   26
   25
   24
   Glucose
   185
   204
   173
   212
   122
   Other labs: PT / PTT / INR:15.2/69.7/1.3, CK / CKMB /
   Troponin-T:745/38/3.39, ALT / AST:178/286, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:92.6 %, Lymph:4.5 %, Mono:2.8 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.7 g/dL, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   Patient is an 88 year old male with history of CAD s/p [**Year (4 digits) **] to LCx
   (06), moderate to severe AS and diastolic dysfunction who presented
   with NSTEMI, catheterization was complicated by acute LAD occlusion
   during attempt to pass pressure wire and resultant VF arrest now s/p
   mid-LAD BMS and IABP removal
   .
   #. CAD: Known history of CAD s/p [**Year (4 digits) **] to LCx ([**2128**]). Catheterization
   [**2132-1-29**] demonstrated LAD with 50-70% lesion but became acutely occluded
   during procedure now s/p PCI. LCx had 30% ostial and proximal lesions,
   previous [**Month/Day/Year **] patent with 80% stenosis distally. RCA known occluded
   and filled via LAD collaterals. Pt now with recurrent chest pain with
   dynamic ST depression infero-laterally
   - Continue ASA and Plavix
   - Continue heparin gtt given pain with dynamic ECG changes
   - Pt with known tight lesion of LCx and recent LAD [**Last Name (LF) **], [**First Name3 (LF) 124**] plan for
   repeat catheterization
   - Continue metoprolol
   - Continue Statin
   - Not on ACE-I secondary to renal failure
   .
   # CARDIAC ARREST/SHOCK: Pt with VF secondary to acute LAD occlusion s/p
   mid-LAD BMS and IABP removal. MS improved and now extubated.
   #. AORTIC STENOSIS AND CHRONIC DIASTOLIC CHF.
   - I/O Goal hold on further diuresis pending repeat catheterization
   - Continue metoprolol
   .
   #. Rhythm: Currently in sinus rhythm s/p VF arrest and emergent
   revascularization.
   - Monitor on telemetry
   .
   # Renal insufficiency: Creatinine rising post-arrest likely related to
   poor forward flow. FeNA 0.1%
   - Trend creatinine.
   - Renally dose all meds.
   - Mucomyst pre-cath
   .
   # Hypertension: inactive issue
   # Hyperlipidemia
 Continue statin
   .
   #. Diabetes mellitus: - FS QID and sliding scale
   .
   #. FEN:  - cardiac diet
   .
   #. Access:
   - PIV
   - L radial A line
   .
   #. PPx: Heparin gtt, PPI, bowel regimen
   .
   #. Code: Full
   .
   #. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-1-29**] 02:00 PM
   Arterial Line - [**2132-1-29**] 05:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   as per ccu team. Critically ill due to cardiac arrest, acute STEMI,
   renal failure.
   Above discussed extensively with patient.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/7/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2132-2-3**] 10:57 ------

2132-02-03 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EJ IV placed for access until pt can get PICC in IR Monday. No more
   shoulder pain, cardiac markers flat.
   Patient anxious this morning about upcoming catheterization.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Nitroglycerin - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-3**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 77 (68 - 82) bpm
   BP: 136/52(80) {92/42(60) - 136/90(95)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,908 mL
                                                                    277 mL
   PO:
                                                                  1,635 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    273 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,223 mL
                                                                    460 mL
   Urine:
                                                                  1,223 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    685 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: A&O, NAD
   Neck: JVP 10 cm, L EJ in place.
   CV: RRR. 2/6 SEM loudest at RUSB
   Resp: CTAB
   Abd: Soft NTND. +BS
   Ext: 1+ DP pulses, 2+ radial pulses. WWP. 1+ ankle edema.
   Labs / Radiology
   218 K/uL
   9.2 g/dL
   103 mg/dL
   2.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   58 mg/dL
   102 mEq/L
   138 mEq/L
   26.0 %
   13.6 K/uL
        [image002.jpg]
                             [**2132-1-31**]  04:24 AM
                             [**2132-1-31**]  06:28 AM
                             [**2132-1-31**]  11:14 AM
                             [**2132-1-31**]  05:06 PM
                             [**2132-1-31**]  08:33 PM
                             [**2132-2-1**]  04:48 AM
                             [**2132-2-1**]  04:46 PM
                             [**2132-2-2**]  03:18 AM
                             [**2132-2-2**]  06:06 PM
                             [**2132-2-3**]  04:13 AM
   WBC
   23.2
   21.6
   21.1
   17.5
   14.6
   13.6
   Hct
   28.5
   26.4
   27.2
   25.7
   26.1
   26.0
   Plt
   176
   174
   186
   196
   194
   218
   Cr
   2.9
   3.0
   2.8
   2.4
   2.3
   TropT
   3.39
   3.94
   4.75
   TCO2
   26
   25
   24
   Glucose
   [**Telephone/Fax (3) 5078**]22
   103
   Other labs: PT / PTT / INR:15.7/62.4/1.4, CK / CKMB /
   Troponin-T:200/7/4.75, ALT / AST:178/286, Alk Phos / T Bili:82/0.6,
   Differential-Neuts:92.6 %, Lymph:4.5 %, Mono:2.8 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.7 g/dL, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 88 year old male with history of CAD s/p [**Telephone/Fax (3) **] to LCx
   (06), moderate to severe AS and diastolic dysfunction who presented
   with NSTEMI, catheterization was complicated by acute LAD occlusion
   during attempt to pass pressure wire and resultant VF arrest now s/p
   mid-LAD BMS and IABP removal.
   .
   #. CAD: Known history of CAD s/p [**Telephone/Fax (3) **] to LCx ([**2128**]). Catheterization
   [**2132-1-29**] demonstrated LAD with 50-70% lesion but became acutely occluded
   during procedure now s/p PCI. LCx had 30% ostial and proximal lesions,
   previous [**Month/Day/Year **] patent with 80% stenosis distally. RCA known occluded
   and filled via LAD collaterals. Pt now with recurrent chest pain with
   dynamic ST depression infero-laterally
   - Continue ASA and Plavix
   - Continue heparin gtt given pain with dynamic ECG changes
   - Pt with known tight lesion of LCx and recent LAD [**Last Name (LF) **], [**First Name3 (LF) 124**] plan for
   repeat catheterization.  Continue with nitro gtt.
   - Continue metoprolol
   - Continue statin
   - Not on ACE-I secondary to renal failure
   - Monitor volume status, goal even to slightly negative.  Check PM
   lytes while diuresing.
   - Plan for catheterization tomorrow to treat LCx.  Pre-cath hydration,
   mucomyst.
   .
   # CARDIAC ARREST/SHOCK: Pt with VF secondary to acute LAD occlusion s/p
   mid-LAD BMS and IABP removal. MS improved and now extubated.
   #. AORTIC STENOSIS AND CHRONIC DIASTOLIC CHF.
   - I/O goal even to slightly negative.
   - Continue metoprolol
   .
   #. Rhythm: Currently in sinus rhythm s/p VF arrest and emergent
   revascularization.
   - Monitor on telemetry
   .
   # Renal insufficiency: Creatinine rising post-arrest likely related to
   poor forward flow. FeNA 0.1%
   - Trend creatinine.
   - Renally dose all meds.
   - Mucomyst pre-cath, IVF
   .
   # Hypertension: inactive issue
   # Hyperlipidemia
 Continue statin
   .
   #. Diabetes mellitus: - FS QID and sliding scale
   .
   #. FEN:  - cardiac diet
   .
   #. Access:
   - PIV, L EJ
   - L radial A line
   .
   #. PPx: Heparin gtt, PPI, bowel regimen
   .
   #. Code: Full
   .
   #. Dispo: Call out to [**Hospital Ward Name 383**] 3.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-1-29**] 02:00 PM
   Arterial Line - [**2132-1-29**] 05:00 PM
   18 Gauge - [**2132-2-2**] 04:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu
   Physical Examination
   as per ccu
   Medical Decision Making
   Critically ill due to cardiac arrest, ST elevation MI, chest pain.
   Above discussed extensively with patient.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/5/8
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2132-2-3**] 13:19 ------